US07550544B2
2-Bromoethylbenzene was obtained from 2-ethylaniline (Acros) as described in Hansch, C.; Geiger, C. J. Org. Chen. 1959, 24, 1025. Cyclopentadiene was obtained by thermal cracking of dicyclopentadiene (Acros). 2,7-Dibromo-9H-fluorene [Kajigaeshi, S.; Kakinami, T.; Moriwaki, M.; Tanaka, T.; Fujisaki, S.; Okamoto, T. Bull. Chem. Soc. Jap. 1989, 62, 439], 6,6-dimethylfulvene [Buttrus, N. H.; Comforth, J.; Hitchcock, P. B.; Kumar, A.; Stuart, A. S. J. Chem. Soc., Perkin Trans. 1 1987, 851], and 2-bromo-9H-fluorene [Kajigaeshi, S.; Kakinami, T.; Moriwaki, M.; Tanaka, T.; Fujisaki, S.; Okamoto, T. Bull. Chem. Soc. Jap. 1989, 62, 439] were prepared according to the published methods.

reactant | 2,7-Dibromo-9H-fluorene | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | 6,6-dimethylfulvene | CC(=C1C=CC=C1)C | C8H10
product | 2-bromo-9H-fluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
